US06498172B1
(3-{[Benzenesulfonyl-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step A was prepared from {3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A of Example 13b, and benzenesulfonyl chloride following the method described in Example 3, Step B 1H NMR (400 MHz, CDCl3) δ 8.97 (s, 1H), 8.60 (m, 1H), 8.49 (m, 1H), 7.87 (m, 4H), 7.61-7.51 (m, 3H), 7.26-7.08 (m, 3H), 6.75 (m, 1H), 6.63 (m, 1H), 6.58 (m, 1H), 4.38 (s, 2H), 4.34 (s, 2H), 4.31 (s, 2H), 1.47 (s, 9H); MS 546 (M+1).

reactant | {3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C24H27N3O3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | (3-{[Benzenesulfonyl-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CN=C1)S(=O)(=O)C1=CC=CC=C1)=O | C30H31N3O5S
